US05866592
The same procedure as in Example 2-(6-2) was performed with N-4-cyanobenzoyl-β-styryl-α,α-dimethyl-β-alanine (100 mg, 0.287 mmol) using 4-piperidineacetic acid t-butyl ester (203 mg, 0.86 mmol) to yield an oil of N-4-cyanobenzoyl-β-styryl-α,α-dimethyl-β-alanyl-4-piperidineacetic acid t-butyl ester (46 mg, 30.3%).

reactant | N-4-cyanobenzoyl-β-styryl-α,α-dimethyl-β-alanine | 0.287 mmol, 100 mg | C(#N)C1=CC=C(C(=O)NC(C(C(=O)O)(C)C)C=CC2=CC=CC=C2)C=C1 | C21H20N2O3
reactant | 4-piperidineacetic acid t-butyl ester | 0.86 mmol, 203 mg | C(C)(C)(C)OC(CC1CCNCC1)=O | C11H21NO2
product | N-4-cyanobenzoyl-β-styryl-α,α-dimethyl-β-alanyl-4-piperidineacetic acid t-butyl ester | 46 mg, 30.3% | C(C)(C)(C)OC(CC1CCN(CC1)C(C(C(NC(C1=CC=C(C=C1)C#N)=O)C=CC1=CC=CC=C1)(C)C)=O)=O | C32H39N3O4
